US06420359B1
d) 5,11-Dihydro-2,5-dimethyl-11-ethyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A solution of 8-bromo-5,11-dihydro-2,5-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (258 mg, 0.7 mmol) in DMF (7.4 mL) was degassed under reduced pressure for 20 min. Pd(PPh3)4 (43 mg, 0.04 mmol) was then added followed by allyltributyltin (0.3 mL, 0.85 mmol). After degassing under reduced pressure for 10 min, the mixture was heated to 100° C. for 1.5 h. The mixture was then concentrated under reduced pressure. The residue was purified by flash chromatography (hexane:EtOAc, 8:2) to give the title compound (184 mg, 98% yield) as a yellow solid.

reactant | 8-bromo-5,11-dihydro-2,5-dimethyl-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.7 mmol, 258 mg | BrC1=CC2=C(N(C3=C(N(C2=O)C)C=CC(=N3)C)CC)N=C1 | C15H15BrN4O
reactant | allyltributyltin | 0.85 mmol, 0.3 mL | C(C=C)[Sn](CCCC)(CCCC)CCCC
solvent | DMF | 7.4 mL | CN(C)C=O | C3H7NO
catalyst | Pd(PPh3)4 | 0.04 mmol, 43 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5,11-Dihydro-2,5-dimethyl-11-ethyl-8-(2-propenyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 184 mg, 98% yield | CC=1C=CC=2N(C(C3=C(N(C2N1)CC)N=CC(=C3)CC=C)=O)C | C18H20N4O
